US07977331B1
To a solution of methyl 12-cyclohexyl-6,7-dihydro-5-thia-7a-azadibenzo[a,e]azulene-9-carboxylate (186 mg, 0.470 mmol) in tetrahydrofuran (2 ml) and methanol (2 ml) was added 4N aqueous sodium hydroxide solution (2 ml), and the mixture was stirred at room temperature for 13 hr. 2N hydrochloric acid and water were added to the reaction mixture. The precipitated solid was collected by filtration and dried in vacuo to give 12-cyclohexyl-6,7-dihydro-5-thia-7a-azadibenzo[a,e]azulene-9-carboxylic acid (157 mg, yield 87.7%).

reactant | methyl 12-cyclohexyl-6,7-dihydro-5-thia-7a-azadibenzo[a,e]azulene-9-carboxylate | 0.470 mmol, 186 mg | C1(CCCCC1)C=1C2=C(N3CCSC4=C(C13)C=CC=C4)C=C(C=C2)C(=O)OC | C24H25NO2S
reactant | sodium hydroxide | 4N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
product | 12-cyclohexyl-6,7-dihydro-5-thia-7a-azadibenzo[a,e]azulene-9-carboxylic acid | 157 mg, yield 87.7% | C1(CCCCC1)C=1C2=C(N3CCSC4=C(C13)C=CC=C4)C=C(C=C2)C(=O)O | C23H23NO2S
